US04382929
3-[5-(Dimethylaminomethyl)-3-thienyloxy]-1-propanol methanesulphonate hydrochloride
A solution of 3-[5-(dimethylaminomethyl)-3-thienyloxy]-1-propanol (0.25 g) and methanesulphonyl chloride (0.1 ml) in dry dichloromethane (10 ml) at 0°-5° was stirred for 1 h. The mixture was poured onto an ice cold 4% aqueous solution of sodium carbonate (50 ml). The solution was extracted with dichloromethane (20 ml). The organic extract was evaporated to give the title compound (0.05 g) as a white solid.

reactant | 3-[5-(dimethylaminomethyl)-3-thienyloxy]-1-propanol | 0.25 g | CN(C)CC1=CC(=CS1)OCCCO | C10H17NO2S
reactant | methanesulphonyl chloride | 0.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-[5-(Dimethylaminomethyl)-3-thienyloxy]-1-propanol methanesulphonate hydrochloride | 0.05 g | Cl.CS(=O)(=O)OCCCOC1=CSC(=C1)CN(C)C | InChI=1S/C11H19NO4S2.ClH/c1-12(2)8-11-7-10(9-17-11)15-5-4-6-16-18(3,13)14;/h7,9H,4-6,8H2,1-3H3;1H
